US04603198
17.4 g of (2-tritylaminothiazol-4-yl)glyoxylic acid was dissolved in 500 ml of methanol under heating and the mixture was cooled to room temperature. A mixture of 100 ml of methanol and 5.5 g of 5-aminooxymethyl-1-methylimidazole was added to the mixture and then the resulting mixture was stirred overnight at room temperature. The precipitate formed was collected by filtration and washed with methanol to give 14.9 g of 2-(2-tritylaminothiazol-4-yl)-2-((1-methylimidazol-5-yl)methoxyimino)acetic acid with mp 231°-232° C. (decomposition).

reactant | (2-tritylaminothiazol-4-yl)glyoxylic acid | 17.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=O | C24H18N2O3S
reactant | 5-aminooxymethyl-1-methylimidazole | 5.5 g | NOCC1=CN=CN1C | C5H9N3O
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2-tritylaminothiazol-4-yl)-2-((1-methylimidazol-5-yl)methoxyimino)acetic acid | 14.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCC1=CN=CN1C | C29H25N5O3S
